US07816522B2
(216d) 2-Fluoro-5-methoxy-3-(2-triisopropylsilanyloxyethoxymethyl)benzaldehyde
2-Fluoro-3-(2-hydroxyethoxymethyl)-5-methoxybenzaldehyde (305 mg) was dissolved in 3 ml of DMF, and 300 mg of imidazole and 283 mg of chlorotriisopropylsilane were added thereto. The resulting mixture was stirred at 50° C. for 2 hours, and then water was added thereto. The mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure to give a crude product of the title compound (533 mg).

reactant | 2-Fluoro-3-(2-hydroxyethoxymethyl)-5-methoxybenzaldehyde | 305 mg | FC1=C(C=O)C=C(C=C1COCCO)OC | C11H13FO4
reactant | imidazole | 300 mg | N1C=NC=C1 | C3H4N2
reactant | chlorotriisopropylsilane | 283 mg | Cl[Si](C(C)C)(C(C)C)C(C)C | C9H21ClSi
reactant | water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2-Fluoro-5-methoxy-3-(2-triisopropylsilanyloxyethoxymethyl)benzaldehyde | 533 mg | FC1=C(C=O)C=C(C=C1COCCO[Si](C(C)C)(C(C)C)C(C)C)OC | C20H33FO4Si
